US05603959
--A mixture of salicylic acid (90 g), 2,2,2-trichloroethanoI (270 g) and concentrated sulphuric acid (50 g) was stirred and heated at 100° C. for 4 hours. The mixture was diluted with chloroform (800 ml) and extracted with water (2×500 ml). After further extraction with saturated aqueous sodium bicarbonate solution (1000 ml), the organic layer was washed with water (2×500 ml) and dried (Mg SO4). The chloroform and excess trichloroethanol was removed in vacuo (65° C./20 mmHg) and the product was distilled (110°-112° C./0.5 mmHg) to give 2,2,2-trichloroethyl salicylate (104 g, 59% ) as a clear liquid which solidified on cooling.

reactant | salicylic acid | 90 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 2,2,2-trichloroethanoI | 270 g | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | sulphuric acid | 50 g | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,2,2-trichloroethyl salicylate | 104 g, 59% | C(C=1C(O)=CC=CC1)(=O)OCC(Cl)(Cl)Cl | C9H7Cl3O3
